US06890935B2
3-Bromo-5-(3,5-Dimethoxyphenoxy)pyridine
Under an argon atmosphere, a solution of 3,5-dimethoxyphenol (6.94 g, 45 mmol) in dimethylformamide (30 mL) was added slowly to a stirred suspension of sodium hydride (1.44 g of a 75% suspension in mineral oil, 0.045 mol) in dimethylformamide (30 mL) at 0-5° C. The icebath was removed and the resulting mixture was stirred for 2.5 h at room temperature. 3,5-Dibromopyridine (7.11 g, 0.03 mol) was added to the mixture, which was then heated to 100° C. for 72 h, then the mixture was cooled to room temperature and successively washed with water (100 mL) and 5 N NaOH solution (10 mL). The mixture was extracted with diethyl ether (3×50 mL). The combined organic phases were dried (MgSO4), filtered and concentrated by rotary evaporation to give 9.2 g of a white solid, which was purified by column chromatography, eluting with cyclohexane/ethyl acetate (90/10, v/v). Selected fractions containing the product were concentrated via rotary evaporation to give 2.5 g (29%) of a yellow oil.

reactant | 3,5-dimethoxyphenol | 45 mmol, 6.94 g | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | sodium hydride | [H-].[Na+]
reactant | 3,5-Dibromopyridine | 0.03 mol, 7.11 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-Bromo-5-(3,5-Dimethoxyphenoxy)pyridine | 9.2 g | BrC=1C=NC=C(C1)OC1=CC(=CC(=C1)OC)OC | C13H12BrNO3
